Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
STEMI
 
Major Surgical or Invasive Procedure:
Cardaic catherization

 
History of Present Illness:
This is a ___ year old woman with a history of hypertension and 
hyperlipidemia who presents with anterior STEMI.  She saw her 
PCP ___ ___ with ten days of back pain between her scapula 
and it was felt she had a radiculopathy.  She then presented to 
___ ED on ___ for worsening back pain, shoulder and 
neck pain associated with vomiting.  EKG performed at that time 
showed ST elevations in leads I, avL, V2-V5. She was not cathed 
at that time as symptoms had been present for 10 days and were 
improving. CPK 1670, MB 99.2, RI 8.1, Trop 3.24.  She was cathed 
at the outside hospital on day of admission to ___ and found 
to have subtotally occluded LAD.  She was then transferred here 
for PCI. Sheath in RFA, pulses dopplerable.  She was given 600mg 
of plavix and aspirin 325mg on morning of admission along with 
20mg lasix for LVEDP of 35 mmHG. Echo revealed an LVEF of 
___. Upon transfer to ___, she underwent cardiac 
catheterization with PCI of LAD.  She was started on 
integrillin.  Upon transfer to the CCU, she continued to endorse 
back pain however she feels it considerably improved.  
.
Prior to this event, she has never had any overt anginal 
symptoms.  Her exercise tolerance is good, with no shortness of 
breath or anginal equivalents with exercise.  She used to swim 
frequently however in the past several months, following her 
husband's death in ___, she has stopped exercising.  
Cardiac risk factors include hypertension and hyperlipidemia, 
and she has been on atenolol and simvastatin for these issues 
respectively.  She has never had any prior MIs, known coronary 
disease, stress tests, or cardiac catheterization.  
.
Review of systems is negative for chest pressure/pain, shortness 
of breath, nausea/vomiting, abdominal pain, headache, blurry 
vision, dysuria, fevers, chills.  

 
Past Medical History:
Hypertension
Hyperlipidemia
Foot surgery (w/ metal rods in foot)
Hysterectomy 
 
Social History:
___
Family History:
Brother died of congestive heart failure, no history of coronary 
syndrome or sudden cardiac death in other relatives.  
 
Physical Exam:
Cardiac: Nl s1/s2, RRR, no murmurs appreciable
Pulm: lungs clear bilaterally
Abd: soft, nontender, nondistended
Ext: no edema noted
Neuro: alert and oriented X 3 
 
Pertinent Results:
Admission labs:
___ 09:55PM BLOOD WBC-13.2* RBC-3.62* Hgb-11.3* Hct-32.5* 
MCV-90 MCH-31.1 MCHC-34.7 RDW-13.2 Plt ___
___ 02:45PM BLOOD Glucose-153* UreaN-11 Creat-0.6 Na-128* 
K-3.6 Cl-90* HCO3-26 AnGap-16
___ 02:45PM BLOOD Albumin-3.0*
___ 05:56AM BLOOD %HbA1c-5.6 eAG-114
___ 05:56AM BLOOD Triglyc-106 HDL-48 CHOL/HD-2.6 LDLcalc-55
___ 05:56AM BLOOD TSH-1.4
___ 05:56AM BLOOD Free T4-1.4
___ 05:56AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE
___ 05:56AM BLOOD ALT-77* AST-142* LD(LDH)-685* 
CK(CPK)-416* AlkPhos-178* Amylase-14 TotBili-1.7* DirBili-0.8* 
IndBili-0.9
___:56AM BLOOD HCV Ab-NEGATIVE
.
Cardiac Enzymes:
___ 02:45PM BLOOD CK-MB-25* MB Indx-5.5 cTropnT-2.16*
___ 02:45PM BLOOD CK(CPK)-451* AlkPhos-95
___ 09:55PM BLOOD CK-MB-23* MB Indx-4.3 cTropnT-3.95*
___ 09:55PM BLOOD CK(CPK)-531*
___ 05:56AM BLOOD CK-MB-15* MB Indx-3.6
___ 05:56AM BLOOD CK(CPK)-416* 
___ 06:57PM BLOOD CK-MB-3 cTropnT-4.50*
___ 06:57PM BLOOD CK(CPK)-103
.
Discharge labs: 
___ 07:05AM BLOOD WBC-9.2 RBC-3.49* Hgb-10.4* Hct-31.1* 
MCV-89 MCH-29.9 MCHC-33.5 RDW-13.2 Plt ___
___ 07:05AM BLOOD ___ PTT-42.0* ___
___ 07:05AM BLOOD Glucose-92 UreaN-13 Creat-0.8 Na-134 
K-3.8 Cl-96 HCO3-25 AnGap-17
___ 07:05AM BLOOD Calcium-8.7 Phos-3.4 Mg-1.9
.
___ EKG:
Baseline artifact. Probable sinus or other supraventricular 
rhythm with 
somewhat atypical P wave. Marked left axis deviation. 
Intraventricular 
conduction delay of right bundle-branch block type with Q waves 
in leads V1-V2 with J point and ST segment elevation in leads I, 
aVL and V2-V6. Probable extensive anterior wall myocardial 
infarction in evolution. No previous tracing available for 
comparison. Clinical correlation is suggested.  
.
___ Catherization:
COMMENTS:      
1. Selective coronary angiography revealed patent LMCA, 100% 
proximal 
occlusion of the LAD with faint left to left collaterals, patent 
LCX. 
2. Resting hemodynamics were performed. The right sided filling 
pressures were elevated (mean RA pressure was 15mmHg and RVEDP 
was 
23mmHg). The pulmonary artery pressure was elevated measuring 
45/23mmHg. 
The left sided filling pressures were elevated (mean PCW 
pressure was 
34mmHg). The systemic arterial pressure was normal measuring 
109/69mmHg. 
The cardiac index was measured 2.0L/min/m2 using an assumed 
oxygen 
consumption index. 
3. Successful PTCA and stenting of the LAD with a 2.5x28mm 
Promus stent 
that was postdilated to 2.75mm. Final angiography revealed no 
residual 
stenosis, no angiographically apparent dissection and TIMI III 
flow (see 
___ comments). 
4. Successful deployment of angioseal closure device. 
  
FINAL DIAGNOSIS:     
1. One vessel coronary artery disease. 
2. Elevated left and right sided filling pressures. 
3. Borderline low cardiac index. 
4. Successful PCI of the LAD. 
5. Successful deployment of angioseal closure device. 
.

___ Carotid U/S:
Impression: Right ICA stenosis 0. 
Left ICA stenosis 0. 
.
___ Abdominal U/S:
Right pleural effusion and trace free fluid in ___'s pouch.  

Otherwise, unremarkable abdominal sonogram.  
.
___ Cardiac MRI: Report pending
Impression: 
1. Ischemic cardiomyopathy with mildly increased left 
ventricular cavity size, extensive akinesis/dyskinesis involving 
the proximal LAD territory and severely depressed global 
systolic function (LVEF 28%). Late gadolinium contrast-enhanced 
CMR images demonstrated transmural areas of fibrosis in the 
apex, anterior wall, mid-distal septum, and distal inferolateral 
walls. Low dose dobutamine images showed no improvement of these 
segments consistent with poor likelihood of functional recovery 
after mechanical revascularization. 2. Normal right ventricular 
cavity size with apical akinesis. The RVEF was moderately 
depressed at 30%. 
3. Mild aortic regurgitation. 4. The indexed diameters of the 
ascending and descending thoracic aorta were normal. The main 
pulmonary artery diameter index was normal. 5. Mild left atrial 
enlargement. 
.
___ CXR:
FINDINGS: Moderate cardiomegaly, minimal overhydration, mainly 
manifested by an increase in diameter of the perihilar vessels. 
In addition, small 
bilateral pleural effusions are visible on the lateral 
radiograph. 
No evidence of focal parenchymal opacity suggesting pneumonia. 
No lung 
nodules or masses. The mediastinal contours are unremarkable. 
.
___ Cath:
COMMENTS:      
1. Selective coronary angiography revealed patent LMCA, 100% 
proximal 
occlusion of the LAD with faint left to left collaterals, patent 
LCX. 
2. Resting hemodynamics were performed. The right sided filling 
pressures were elevated (mean RA pressure was 15mmHg and RVEDP 
was 
23mmHg). The pulmonary artery pressure was elevated measuring 
45/23mmHg. 
The left sided filling pressures were elevated (mean PCW 
pressure was 
34mmHg). The systemic arterial pressure was normal measuring 
109/69mmHg. 
The cardiac index was measured 2.0L/min/m2 using an assumed 
oxygen 
consumption index. 
3. Successful PTCA and stenting of the LAD with a 2.5x28mm 
Promus stent 
that was postdilated to 2.75mm. Final angiography revealed no 
residual 
stenosis, no angiographically apparent dissection and TIMI III 
flow (see 
PTCA comments). 
4. Successful deployment of angioseal closure device. 
  
FINAL DIAGNOSIS:     
1. One vessel coronary artery disease. 
2. Elevated left and right sided filling pressures. 
3. Borderline low cardiac index. 
4. Successful PCI of the LAD. 
5. Successful deployment of angioseal closure device. 

 
Brief Hospital Course:
___ year old female with history of hyperlipidemia and 
hypertension presenting with anterior MI with ST elevations in 
lateral leads s/p PCI to LAD with cardiomyopathy noted on echo 
with EF of 10%. 
.
# Coronary Artery Disease:  Cardiac risk factors include 
hyperlipidemia and hypertension.  Single vessel disease, with 
anterior MI likely secondary to plaque rupture in LAD.  
Concomittant cardiomyopathy is likely ischemic secondary to LAD 
lesion. Patient was discharged on aspirin 325mg, lipitor 80mg, 
plavix 75mg, and lisinopril. Patient was not on beta-blocker ___ 
bradycardia. 
.
# Cardiomyopathy - Likely ischemic cardiomyopathy given 
concomittant LAD lesion.  Lovenox bridge to warfarin was started 
due to risk of LV aneurysmal dilation. MRI was done to determie 
extent of scar formation. Transplant work up was started but 
will need to be followed up by outpatient cardiologist. As part 
of work up patient will need outpatient PFT
.
# Hypertension - Continue lisinopril 
.
# Hyperlipidemia - Continue atorvastatin

 
Medications on Admission:
-atenolol 50 mg daily
-___ 48 mg daily
-zocor 20 mg qhs
-3 omega 3 daily
-calcium and vitamin D
-vitamin C
-2 B 100
-glucosamine chondroitin double daily
-vitamin E 400 IU
-multivitamin
-aspirin 81 mg daily
-premarin cream

 
Discharge Medications:
1. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*11*
3. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Warfarin 5 mg Tablet Sig: 0.5 Tablet PO Once Daily at 4 ___: 
take Lovenox with warfarin until your INR is > 2.0.
Disp:*15 Tablet(s)* Refills:*2*
5. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. Enoxaparin 100 mg/mL Syringe Sig: One (1) syringe 
Subcutaneous Q12H (every 12 hours): Stop taking once your INR is 
more than 2.0.
Disp:*8 syringe* Refills:*2*
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
8. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: 1.5 Tablet Sustained Release 24 hrs PO once a day.
Disp:*45 Tablet Sustained Release 24 hr(s)* Refills:*2*
9. Outpatient Lab Work
Please check INR, Chem 7 on ___ and call results to 
Dr. ___ ___ clinic at ___ option #7
10. Calcium 600 + D(3) 600 mg(1,500mg) -200 unit Tablet Sig: One 
(1) Tablet PO twice a day.  
11. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
12. Glucosamine Chondroitin MaxStr  Oral
13. Premarin  Vaginal

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
ST Elevation Myocardial Infarction
Acute Systolic Dysfunction, EF 20%
Coronary Artery Disease
.
Secondary Diagnosis:
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after having a heart attack. 
You had a stent placed in one of your coronary vessels. We have 
started you on several medications to help protect your heart. 
You will need to take Plavix and aspirin every day for at least 
one year and possibly longer. Do not stop taking these medicines 
unless Dr. ___ you to. It is very important that you 
follow up with the doctors listed below
.
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs in 1 day or 6 pounds in 3 days. You will need to 
avoid salt to prevent fluid from building up. You will be 
wearing a lifevest to protect your heart from dangerous heart 
rhythms. Please follow the instructions. 
.
We have made the following changes to your medications:
1. Stop Atenolol
2. Start Lisinopril 5mg by mouth once a day 
3. Increase Aspirin to 325mg by mouth once a day
4. Start Plavix 75mg by mouth once a day 
5. Stop ___ 3s and Vitamin E
6. Start Atorvostatin 80mg by mouth once a day, Stop Zocor
7. Start Lovenox ___ injected subcutaneously every 12 hours 
until INR is therapeutic (Your doctors ___ help ___ decide when 
to stop this medication)
8. Start Coumadin 2.5mg by mouth once a day. You should have 
your INR checked on the date listed on the perscription.  
 
Followup Instructions:
___